US07723347B2
3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)aniline
477 mg (1.00 mmol) of 3-fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]aniline are dissolved in 4 ml of dichloromethane. 4.0 ml of trifluoroacetic acid are added, and the mixture is stirred at RT for 2 hours. The solution is concentrated to dryness. The residue is taken up in 15 ml of THF, and 15 ml of an aqueous 1 M lithium hydroxide solution are added. The solution is stirred at RT for 20 hours and then concentrated, and water is added. The mixture is extracted with ethyl acetate. The extract is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is purified by preparative HPLC.

reactant | 3-fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]aniline | 1.00 mmol, 477 mg | FC=1C=C(N)C=CC1CC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C20H26FN3OSi
reactant | trifluoroacetic acid | 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)aniline | FC=1C=C(N)C=CC1CC1=C2C(=NC=C1)NC=C2 | C14H12FN3
